US04962208
164 grams of anhydrous citric acid;
25 grams of gluconic acid anhydride; 80 grams of dried and purified magnesium hydroxycarbonate prepared by heating in a steel tray exposed to the steam and air at 165° C. for 18 hours so that all organic material present has been oxidized; 12 grams of magnesium acid citrate; and 4 grams of calcium as the carbonate were admixed, all in powdered form. Next 20 grams of distilled water was heated to a temperature of 80° C., and then added to the 300 gram heat-resistant glass bottle. The admixed powders were then introduced into the glass bottle containing the heated distilled water and were dissolved therein. The evolvement of carbon dioxide gas from the liquid was observed. When this evolution of carbon dioxide had subsided, the magnesium gluconocitrate solution was filtered, introduced into a glass bottle, stoppered and was placed into the autoclave as is done in the prior art. During autoclaving, the bottle did not break.

reactant | gluconic acid anhydride | 25 grams | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)OC(=O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C12H22O13
reactant | magnesium | 12 grams | [Mg] | Mg
reactant | calcium | 4 grams | [Ca] | Ca
reactant | carbonate | C([O-])([O-])=O
reactant | water | 20 grams | O | H2O
product | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
